US04752616
To a stirred solution of (C6H5)3P (9.03 g, 34.4 mmol) in 220 ml of toluene at 0° C. was added bromine (1.76 ml, 34.4 mmol) over 10 minutes. To this stirred slurry was then added a solution of p-(2-thexyldimethylsilyloxyethyl)phenethyl alcohol (10.6 g, 34.4 mmol) and pyridine (2.78 ml, 34.4 mmol) in 50 ml of toluene over 10 minutes. This mixture was stirred at room temperature for 4 hours and diluted with 300 ml of saturated NaHCO3 solution. The resulting mixture was extracted with ether (4×300 ml). The combined ether extracts were dried (MgSO4), filtered and concentrated in vacuo. The residue was triturated in 200 ml of hexane-ether 4:1 and filtered. The filtrate was concentrated and distilled under vacuum to give 9.9 g of p-(2-thexyldimethylsilyloxyethyl)phenethyl bromide (78%) as an oil.

reactant | (C6H5)3P | 34.4 mmol, 9.03 g | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 34.4 mmol, 1.76 ml | BrBr | Br2
reactant | p-(2-thexyldimethylsilyloxyethyl)phenethyl alcohol | 34.4 mmol, 10.6 g | C(C)(C)(C(C)C)C(CC1=CC=C(CCO)C=C1)O[SiH](C)C | C18H32O2Si
reactant | pyridine | 34.4 mmol, 2.78 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 220 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | NaHCO3 | 300 ml | C(=O)(O)[O-].[Na+]
product | p-(2-thexyldimethylsilyloxyethyl)phenethyl bromide | 9.9 g, 78% | C(C)(C)(C(C)C)C(CC1=CC=C(CCBr)C=C1)O[SiH](C)C | C18H31BrOSi
